US04357333
4-Aminobenzoyl chloride hydrochloride is reacted with 3-amino-1-ethylpiperidine to afford 4-amino-N-(1-ethyl-3-piperidyl)benzamide which is reacted with 4-chloro-8-trifluoromethylquinoline to afford the title compound, melting point 177°-178° C.

reactant | 4-Aminobenzoyl chloride hydrochloride | Cl.NC1=CC=C(C(=O)Cl)C=C1
reactant | 3-amino-1-ethylpiperidine | NC1CN(CCC1)CC | C7H16N2
product | 4-amino-N-(1-ethyl-3-piperidyl)benzamide | NC1=CC=C(C(=O)NC2CN(CCC2)CC)C=C1 | C14H21N3O
